US04997986
4-Amino-3,5-dichloro-α-[[[6-[3-(6-methoxy-2-naphthalenyl)propoxy]hexyl]amino]methyl]benzenemethanol
A solution of 4-amino-3,5-dichloro-α-[[[6-[[3-[6-methoxy-2-naphthalenyl]-2-propynyl]oxy]hexyl](phenylmethyl)amino]methyl]benzenemethanol (1.11 g) in absolute ethanol (50 ml) was hydrogenated over pre-reduced 10% palladium on charcoal catalyst (0.4 g) in absolute ethanol (10 ml) containing hydrochloric acid (1:9 conc. hydrochloric acid/ethanol, 1.67 ml). The mixture was filtered through hyflo and evaporated in vacuo to give an oil. The oil was partitioned between dichloromethane (150 ml) and 8% sodium bicarbonate (100 ml). The aqueous phase was re-extracted with dichloromethane (100 ml) and the combined organic extracts dried and evaporated in vacuo to give an oil. Purification by FCC eluting with System C (95:5:1) gave the title compound as a white solid (513 mg), m.p. 102.5°-103.5°.

reactant | 4-amino-3,5-dichloro-α-[[[6-[[3-[6-methoxy-2-naphthalenyl]-2-propynyl]oxy]hexyl](phenylmethyl)amino]methyl]benzenemethanol | 1.11 g | NC1=C(C=C(C=C1Cl)C(O)CN(CC1=CC=CC=C1)CCCCCCOCC#CC1=CC2=CC=C(C=C2C=C1)OC)Cl | C35H38Cl2N2O3
reactant | hydrochloric acid | 1.67 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Amino-3,5-dichloro-α-[[[6-[3-(6-methoxy-2-naphthalenyl)propoxy]hexyl]amino]methyl]benzenemethanol | 513 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCCC1=CC2=CC=C(C=C2C=C1)OC)Cl | C28H36Cl2N2O3
